US07842696B2
Under an inert atmosphere, 10% Pd/C (111 mg) was added to a stirred solution of N-[2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-4-phenoxy-benzamide (490 mg, 1.14 mmol) in MeOH (90 mL). Hydrogen gas was then passed into the reaction mixture by means of a hydrogen filled bladder and the mixture was stirred at room temperature overnight. The mixture was filtered over celite and the celite was washed with MeOH. The filtrate was collected and concentrated under reduced pressure to afford 390 mg (quantitative yield) of N-(2-Oxo-2-piperazin-1-yl-ethyl)-4-phenoxy-benzamide as a solid. LC-MS purity: 88.65, 1H NMR (CDCl3): δ 7.8 (d, 2H), 7.38 (m, 2H), 7.26 (bs, 1H), 7.18 (tt, 1H), 7.08-7.0 (m, 4H), 4.24 (d, 2H), 3.66 (t, 2H), 3.5 (s, 1H), 3.44 (t, 2H), 2.9 (q, 4H), 2.5-2.6 (m, 1H).

reactant | N-[2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-4-phenoxy-benzamide | 1.14 mmol, 490 mg | C(C1=CC=CC=C1)N1CCN(CC1)C(CNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)=O | C26H27N3O3
reactant | Hydrogen | [H][H] | H2
solvent | MeOH | 90 mL | CO | CH4O
catalyst | Pd/C | 111 mg | [Pd] | Pd
product | N-(2-Oxo-2-piperazin-1-yl-ethyl)-4-phenoxy-benzamide | 390 mg, quantitative yield | O=C(CNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)N1CCNCC1 | C19H21N3O3
